US04642313
5.0 g of (3-furylcarbonyl)methylamine hydrochloride, 6.5 g of sodium bicarbonate and 6.8 g of 3,4-dichlorobenzoyl chloride are treated in the same manner as described in Preparation 1-(1). 7.6 g of N-(3,4-dichlorobenzoyl)-(3-furylcarbonyl)methylamine are thereby obtained. Yield: 82.0%

reactant | (3-furylcarbonyl)methylamine hydrochloride | 5.0 g | Cl.O1C=C(C=C1)C(=O)CN
reactant | sodium bicarbonate | 6.5 g | C([O-])(O)=O.[Na+]
reactant | 3,4-dichlorobenzoyl chloride | 6.8 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
product | N-(3,4-dichlorobenzoyl)-(3-furylcarbonyl)methylamine | 7.6 g, Yield: 82.0% | ClC=1C=C(C(=O)NCC(=O)C2=COC=C2)C=CC1Cl | C13H9Cl2NO3
